US05409930
A solution of 600 mg (3.37 mmol) of methyl N-2-(pyrid-3-yl)vinylcarbamate in 10 mL of 6N H2SO4 is refluxed for 10 minutes, cooled to 0° C. and basified to pH 11 with 50% NaOH. A solution of 400 mg (2.03 mmol) of 2-amino-4,5-dimethoxybenzaldehyde is immediately added and the mixture refluxed for 2.5 hours, cooled to 22° C. and partitioned between ether (150 mL) and water (100 mL). The aqueous layer is back extracted with chloroform and the combined organics are dried (MgSO4) and evaporated to obtain an oil which is recrystallized from hexane/ethyl acetate twice to give 3-(6,7-dimethoxyquinolin-3-yl)pyridine (m.p. 131°-132° C.).

reactant | methyl N-2-(pyrid-3-yl)vinylcarbamate | 3.37 mmol, 600 mg | N1=CC(=CC=C1)C=CNC(OC)=O | C9H10N2O2
reactant | NaOH | [OH-].[Na+]
reactant | 2-amino-4,5-dimethoxybenzaldehyde | 2.03 mmol, 400 mg | NC1=C(C=O)C=C(C(=C1)OC)OC | C9H11NO3
solvent | H2SO4 | 6N, 10 mL | OS(=O)(=O)O | H2O4S
product | 3-(6,7-dimethoxyquinolin-3-yl)pyridine | COC=1C=C2C=C(C=NC2=CC1OC)C=1C=NC=CC1 | C16H14N2O2
